US06713508B2
Step G: 7-(3-(3-Trifluoromethyl-7-propyl-6-benz-[4,5]-isoxazoloxy)propoxy)-2-ethylchromane-2-carboxylic acid
Ethyl 7-(3-(3-trifluoromethyl-7-propyl-6-benz-[4,5]-isoxazoloxy)propoxy)-2-ethylchromane-2-carboxylate (49 mg, 0.092 mmol) was dissolved in isopropanol 2 ml and 2N NaOH aq. 1 ml and was stirred at 70° C. overnight. The solvent was removed under reduced pressure. The residue was diluted with AcOEt and 2N HCl aq. The organic layer was separated, and the aqueous layer was extracted twice with AcOEt. The combined organic layers were dried over anhydrous Na2SO4, filtered, and concentrated to give the title compound 47 mg as a pale yellow oil (quant.).

reactant | Ethyl 7-(3-(3-trifluoromethyl-7-propyl-6-benz-[4,5]-isoxazoloxy)propoxy)-2-ethylchromane-2-carboxylate | 0.092 mmol, 49 mg | FC(C1=NOC2=C1C=CC(=C2CCC)OCCCOC2=CC=C1CCC(OC1=C2)(C(=O)OCC)CC)(F)F | C28H32F3NO6
reactant | NaOH | 2N, 1 ml | [OH-].[Na+]
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
product | 7-(3-(3-Trifluoromethyl-7-propyl-6-benz-[4,5]-isoxazoloxy)propoxy)-2-ethylchromane-2-carboxylic acid | 47 mg | FC(C1=NOC2=C1C=CC(=C2CCC)OCCCOC2=CC=C1CCC(OC1=C2)(C(=O)O)CC)(F)F | C26H28F3NO6
